US06797823B1
A starting compound (N′-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N,N-dimethylurea, 80 mg), potassium carbonate (138 mg), and 1,2-dibromoethane (0.085 ml) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give an intermediate (N′-(4-{[7-(2-bromoethoxy)-6-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl)-N,N-dimethylurea). The intermediate, potassium carbonate (138 mg), and morpholine (0.043 ml) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by HPLC by development with chloroform/methanol to give 72 mg (yield 72%) of the title compound.

reactant | N′-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N,N-dimethylurea | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)O)NC(N(C)C)=O | C18H17ClN4O4
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 0.085 ml | BrCCBr | C2H4Br2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N′-(4-{[7-(2-bromoethoxy)-6-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl)-N,N-dimethylurea | BrCCOC1=C(C=C2C(=NC=NC2=C1)OC1=CC(=C(C=C1)NC(N(C)C)=O)Cl)OC | C20H20BrClN4O4
